US07186716B2
Ethanol (3.2 mL, 54 mmol) and 4-dimethylamino pyridine (DMAP) (54 mg, 0.45 mmol) were added to a mixture of pyrrole-3-carboxylic acid (500 mg, 4.5 mmol) and dicyclohexylcarbodiimide (1.11 g, 5.4 mmol) (Aldrich, Milwaukee, Wis.) in tetrahydrofuran (THF) (15 mL). After heating at 60° C. for 10 hours, the reaction was cooled. The precipitate was filtered off, washed with ethyl acetate, the combined filtrate was concentrated and purified on a silica gel column to give 500 mg (81%) of 1H-pyrrole-3-carboxylic acid ethyl ester as a colorless oil.

reactant | Ethanol | 54 mmol, 3.2 mL | C(C)O | C2H6O
reactant | pyrrole-3-carboxylic acid | 4.5 mmol, 500 mg | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | dicyclohexylcarbodiimide | 5.4 mmol, 1.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylamino pyridine | 0.45 mmol, 54 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1H-pyrrole-3-carboxylic acid ethyl ester | 500 mg, 81% | C(C)OC(=O)C1=CNC=C1 | C7H9NO2
